US07214673B2
(S)-2-Methyl-10-[3-(2-naphthalen-1-yl-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene
Combine (S)-2-(2-naphthalen-1-yl-ethyl)-piperazine (720 mg, 3.0 mmol), 2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine (686 mg, 3.0 mmol), toluene (6 mL), DMSO (1.5 mL) and glacial acetic acid (1 drop). Heat at 105° C. After 48 h, cool to ambient temperature and dilute with ethyl acetate and water. Extract with ethyl acetate. Wash the extracts with water and brine, dry over sodium sulfate, filter and concentrate the filtrate. Purify by silica gel chromatography using 2N ammonia in methanol-methylene chloride (2.5%–3%) as the eluent to give 290 mg (21%)of the title compound: mass spectrum (ion spray): m/z=453 (M+1), 451 (M−1).

reactant | (S)-2-(2-naphthalen-1-yl-ethyl)-piperazine | 3.0 mmol, 720 mg | C1(=CC=CC2=CC=CC=C12)CC[C@@H]1NCCNC1 | C16H20N2
reactant | 2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine | 3.0 mmol, 686 mg | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N | C12H11N3S
reactant | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
reactant | DMSO | 1.5 mL | CS(=O)C | C2H6OS
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (S)-2-Methyl-10-[3-(2-naphthalen-1-yl-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene | 290 mg, 21% | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCC3=CC=CC1=CC=CC=C31 | C28H28N4S
